US06831080B2
Preparation of (±)-1-(3-trifluoromethoxy-phenyl)ethylamine
A mixture of 3-trifluoromethoxyacetophenone, oxime, Preparation 14 (3.08 g, 12.36 mmol), Raney nickel (1 mL) in methanol (50 mL) and ammonium hydroxide (5 mL) was hydrogenated (H2, 50 psi) for 16 hours. The reaction mixture was filtered through Celite and the resultant filtrate was concentrated in vacuo. The suspension obtained was acidified with hydrochloric acid (6N) (100 mL). The aqueous layer was washed with diethyl ether (2×50 mL). The aqueous layer was then made basic with sodium hydroxide (10 N) (with cooling). The basic aqueous layer was then extracted with CH2Cl2 (2×100 mL). The combined organic layer was washed with brine (100 mL), dried over anhydrous magnesium sulfate, filtered, and the resultant filtrate was concentrated in vacuo to provide the title compound (1.82 g, 63%) as an oil.

reactant | 3-trifluoromethoxyacetophenone | CC(=O)C1=CC(=CC=C1)OC(F)(F)F | C9H7F3O2
reactant | hydrochloric acid | 6N, 100 mL | Cl | ClH
reactant | ammonium hydroxide | 5 mL | [OH-].[NH4+]
catalyst | Raney nickel | 1 mL | [Ni] | Ni
solvent | methanol | 50 mL | CO | CH4O
product | (±)-1-(3-trifluoromethoxy-phenyl)ethylamine | 1.82 g, 63% | FC(OC=1C=C(C=CC1)C(C)N)(F)F | C9H10F3NO
